US07176310B1
11. 2-[(3-Butylsulfamoylphenylcarbamoyl)methoxy]pyrimidine-5-carboxylic acid (4-fluorophenyl)amide
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 3-amino-N-butyl-benzenesulfonamide (53 mg, 0.21 mmol) as the coupling partner. Chromatography (1:1 ethyl acetate:dichloromethane) through SiO2 yielded 23 mg (27%) of the titled compound. ESI-MS m/z 502 (MH+), 500 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 3-amino-N-butyl-benzenesulfonamide | 0.21 mmol, 53 mg | NC=1C=C(C=CC1)S(=O)(=O)NCCCC | C10H16N2O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[(3-Butylsulfamoylphenylcarbamoyl)methoxy]pyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 23 mg, 27% | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(NC1=CC(=CC=C1)S(NCCCC)(=O)=O)=O | C23H24FN5O5S
